US07674804B2
To a solution of 4-amino-piperidine-1-carboxylic acid tert-butyl ester (3.62 g, 18.1 mmol, 1.2 equiv) in dry DMF (20 mL) under Ar was added sodium hydride (0.99 g, 22.7 mmol, 1.5 equiv; 55% free-flowing powder moistened with oil) and the reaction mixture stirred at rt. After 2 h, 4,7-dichloro-quinazoline (3.0 g, 15.1 mmol, 1.0 equiv; commercially available) was added and the mixture heated by microwave irradiation to 140° C. for 30 min. Removal of the solvent under reduced pressure and purification with column chromatography on silica eluting with a gradient of heptane/ethyl acetate (10:1→1:1) afforded 4-(7-chloro-quinazolin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (4.33 g, 79%). 1H NMR (300 MHz, CDCl3): δ 1.42-1.53 (m, 2H), 1.48 (s, 9H), 2.16-2.18 (m, 2H), 2.92-2.98 (m, 2H), 4.17-4.20 (m, 2H), 4.39-4.49 (m, 1H), 5.79 (d, J=8.0 Hz, 1H), 7.40 (dd, J=8.8 Hz, J=2.1 Hz, 1H), 7.71 (d, J=8.8 Hz, 1H), 7.82 (d, J=2.1 Hz, 1H), 8.63 (s, 1H). 13C NMR (75 MHz, CDCl3): δ 28.50, 32.05, 42.89, 48.38, 79.85, 113.29, 122.11, 126.75, 127.89, 138.70, 150.65, 154.78, 156.37, 158.58. MS (ISP): 363.5 [M+H]+.

reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 18.1 mmol, 3.62 g, 1.2 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | sodium hydride | 22.7 mmol, 0.99 g, 1.5 equiv | [H-].[Na+]
reactant | 4,7-dichloro-quinazoline | ClC1=NC=NC2=CC(=CC=C12)Cl | C8H4Cl2N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(7-chloro-quinazolin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 4.33 g, 79% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=NC2=CC(=CC=C12)Cl | C18H23ClN4O2
